US05998414
2-(4-Piperonyl-1-piperazinyl)-2,4,6-cycloheptatriene-1-one
A mixture of 2-methoxytropone (1.36 g, 10.0 mmol) (Pietra, F. Chem Review, 1973, 73:293) and 1-piperonylpiperazine (6.61 g, 30.0 mmol) in methanol (50.0 mL) was refluxed for 16 h. After cooling to room temperature, the solvent was removed in vacuo. The residue was subjected to column chromatography using ethyl acetate as the eluent. The title compound was obtained as a yellow oil (1.24 g, 38%). MS (FAB) 325 (M+ +1).

reactant | 2-methoxytropone | 10.0 mmol, 1.36 g | COC1=CC=CC=CC1=O | C8H8O2
reactant | 1-piperonylpiperazine | 30.0 mmol, 6.61 g | C(C1=CC=2OCOC2C=C1)N1CCNCC1 | C12H16N2O2
solvent | methanol | 50.0 mL | CO | CH4O
product | 2-(4-Piperonyl-1-piperazinyl)-2,4,6-cycloheptatriene-1-one | C(C1=CC=2OCOC2C=C1)N1CCN(CC1)C=1C(C=CC=CC1)=O | C19H20N2O3
